US07847019B2
2-Chloroethyl-p-toluenesulfonate (1).
p-Toluenesulfonyl chloride (172 g, 0.884 mol) and pyridine (59 g, 0.75 mol) were added to 180 mL dichloromethane (DCM) in a 1 L round-bottom flask (RBF) which was placed in an ice bath for ca. 5 min. 1-Chloroethanol (40.3 g, 0.496 mol) was added slowly, and the RBF was taken out of the ice bath and left to stir at room temperature (r.t.) for 15 hrs. The reaction mixture was poured into a 1 L separatory funnel, washed twice with 300 mL water+50 mL pyridine, and again with 300 mL water+75 mL 36% wt aq. HCl (discarding the aqueous phase after each wash). Removal of the solvent at reduced pressure yielded analytically pure 1 as a faint yellow, thick syrup (116 g, 0.494 mol, 100% yield). 1H NMR: δ=7.81 (d, 2 aromatic H meta to CH3, J=8.3 Hz), 7.37 (d, 2 aromatic H ortho to CH3, J=8.3 Hz), 4.23 (t, OCH2, J=5.9 Hz), 3.66 (t, CH2Cl, J=5.9 Hz), 2.46 (s, CH3).

reactant | p-Toluenesulfonyl chloride | 0.884 mol, 172 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 0.75 mol, 59 g | N1=CC=CC=C1 | C5H5N
reactant | 1-Chloroethanol | 0.496 mol, 40.3 g | ClC(C)O | C2H5ClO
reactant | dichloromethane | 180 mL | ClCCl | CH2Cl2
product | 2-Chloroethyl-p-toluenesulfonate | 0.494 mol, 116 g, 100% yield | ClCCOS(=O)(=O)C1=CC=C(C=C1)C | C9H11ClO3S
